US04382951
Trans-N-(2H-1-benzopyran-4-yl-methyl)-N-methyl-cinnamylamine (Process b) (Compound No.2)
1.15 g of trans-N-cinnamyl-methylamine in 20 ml of dimethylformamide are slowly added dropwise with stirring to 1.4 g of 4-chloromethyl-2H-1-benzopyrane and 0.8 g of sodium carbonate in 40 ml dimethylformamide. Stirring is continued for 24 hours at room temperature, the resulting mixture evaporated under vacuum and the residue taken up in ethylacetate/water. The organic phase is separated, washed with 1% tartaric acid, saturated NaHCO3 and saturated NaCl, dried over MgSO4 and concentrated by evaporation. After purification by chromatography on kieselgel (eluant toluene/ethylacetate 10/1) the title compound is obtained.

reactant | trans-N-cinnamyl-methylamine | 1.15 g | C(\C=C\C1=CC=CC=C1)NC | C10H13N
reactant | 4-chloromethyl-2H-1-benzopyrane | 1.4 g | ClCC1=CCOC2=C1C=CC=C2 | C10H9ClO
reactant | sodium carbonate | 0.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Trans-N-(2H-1-benzopyran-4-yl-methyl)-N-methyl-cinnamylamine | O1CC=C(C2=C1C=CC=C2)CN(C)C\C=C\C2=CC=CC=C2 | C20H21NO
